Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.7293557888
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[O:6],0.536431682689
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.281462492949999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-4.23774458983
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11].[H:1],5.354503079840001
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9]>>[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],-3.17224512384
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][O:7][H:8])=[C:9]([H:10])[H:11],0.654618942141
[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:12]([C:9]([C:6]([O:5])([H:7])[H:8])([H:10])[H:11])([H:13])[H:14],3.98709809826
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1>>[H:1][O:2][C:3][O:11][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10],3.26098460453
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.96198823021
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.81422455975
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],3.5193631319
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],5.97598802243
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.98696534513
[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],2.16085019607
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:11]([H:12])([H:13])[H:14].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.41532198823
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],2.82060025506
[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9],-5.93814965364
[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.62395029383
[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.824526765787
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.203314521
[H:12].[H:1][C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]/[C:3]([C:4][O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-2.09655307985
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5299437140099998
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-2.22125190785
[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.11257263487
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][O:4],3.76586848646
[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.00619849971
[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.50470318112
